US07820673B2
80a) 2-((tert-butoxycarbonyl)amino)hexanoic acid
To a solution of 2-aminohexanoic acid (2.5 g) and triethylamine (2.9 g) in THF-H2O (50 ml/50 ml) was added dropwise di-tert-butyl dicarbonate (4.6 g) under ice-cooling. After 10 minutes, the reaction mixture was returned to room temperature, and mixed for 15 hours. THF was distilled off under reduced pressure and extracted with dichloromethane. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain the title compound as colorless powder (4.5 g, quantitative).

reactant | 2-aminohexanoic acid | 2.5 g | NC(C(=O)O)CCCC | C6H13NO2
reactant | triethylamine | 2.9 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 4.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF H2O | 50 ml | C1CCOC1.O
product | 2-((tert-butoxycarbonyl)amino)hexanoic acid | 4.5 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CCCC | C11H21NO4
